US04729781
To 4.0 kg thionyl chloride, was added 5.0 kg of 3,6-dichloro-2-methoxybenzoic acid. This was stirred and heated to reflux (ca. 60° C.) for 1.5 hours. The reaction mixture was allowed to cool and excess thionyl chloride evaporated in vacuo. The crude product was then distilled under reduced pressure to give 3,6-dichloro-2-methoxybenzoyl chloride as a liquid, b.p. 117° C. @ 0.6 mm Hg.

reactant | thionyl chloride | 4.0 kg | S(=O)(Cl)Cl | Cl2OS
reactant | 3,6-dichloro-2-methoxybenzoic acid | 5.0 kg | ClC=1C(=C(C(=O)O)C(=CC1)Cl)OC | C8H6Cl2O3
product | 3,6-dichloro-2-methoxybenzoyl chloride | ClC=1C(=C(C(=O)Cl)C(=CC1)Cl)OC | C8H5Cl3O2
